US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-isopropylphenyl)[(4-isopropylphenyl)methyl]amine (1.0 g) and 2,6-diisopropylphenyl isocyanate (0.99 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(4-isopropylphenyl)methyl]urea (0.37 g) was obtained.

reactant | (4-isopropylphenyl)[(4-isopropylphenyl)methyl]amine | 1.0 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(C)C | C19H25N
reactant | 2,6-diisopropylphenyl isocyanate | 0.99 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(4-isopropylphenyl)methyl]urea | 0.37 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)C(C)C)=O | C32H42N2O
